US05981544
2.50 g (19.0 mmol) of 2-amino-5-chloropyridine are added to a solution of 2.50 g (11.0 mmol) of 2,3-dichloro-1,4-dihydro-1,4-dioxo-5-nitronaphthalene in 500 mL of ethanol. This mixture is heated to reflux for 62 h and 50 min. The solution passes from yellow to claret-colored, then to orange. After cooling, the reaction mixture is filtered. The precipitate is washed with ethanol, then dried in an oven for 20 h. The precipitate obtained is recrystallized in 650 mL of ethanol. This precipitate is purified on a flash column (support: silica; eluent: dichloromethane). 0.260 g of 2-chloro-6,11-dihydro-6,11-dioxo-7-nitronaphtho[2',3':4,5]imidazo[1,2-a]-pyridine or 2-chloro-6,11-dihydro-6,11-dioxo-10-nitronaphtho[2',3':4,5]imidazo[1,2-a] pyridine is obtained in the form of orange crystals, and 0.495 g of 10-chloro-5,6-dihydro-5,6-dioxo-4-nitronaphtho[1',2':4,5] imidazo[1,2-a]pyridine is formed in the form of orange crystals.

reactant | 2-amino-5-chloropyridine | 19.0 mmol, 2.50 g | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | 2,3-dichloro-1,4-dihydro-1,4-dioxo-5-nitronaphthalene | 11.0 mmol, 2.50 g | ClC=1C(C2=CC=CC(=C2C(C1Cl)=O)[N+](=O)[O-])=O | C10H3Cl2NO4
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 2-chloro-6,11-dihydro-6,11-dioxo-7-nitronaphtho[2',3':4,5]imidazo[1,2-a]-pyridine | 0.260 g | ClC=1C=CC=2N(C1)C1=C(N2)C(C=2C(=CC=CC2C1=O)[N+](=O)[O-])=O | C15H6ClN3O4
